US09290496B2
Step 8: Preparation of tert-butyl 3,3-difluoro-4-{[3-(methylsulfonyl)propanoyl]amino}pyrrolidine-1-carboxylate
To a reaction flask was added tert-butyl 4-amino-3,3-difluoropyrrolidine-1-carboxylate (1.36 g, 6.12 mmol), 3-(methylsulfonyl)propanoic acid (1.02 g, 6.73 mmol, 1.1 mol eq), DCM (31 mL, 0.4 M), NMM (1.35 mL, 12.2 mmol, 2 mol eq), HOBt (1.31 g, 9.2 mmol, 1.5 mol eq) and EDC-HCl (1.85 g, 9.2 mmol, 1.5 mol eq). The resulting suspension was stirred at ambient temperature under a nitrogen atmosphere for 2 hr. The reaction was diluted with DCM (80 mL), washed with aqueous NaHCO3 (2×30 mL) and the organic layer was dried over Na2SO4 and evaporated to give a residue that was purified via silica flash chromatography eluting with gradients from 100% heptane to 100% ethyl acetate to give the title product as a white foamy solid (1.65 g, 76% yield, >95% purity). 1H NMR (400 MHz, chloroform-d) δ ppm 6.45 (br. s., 1 H) 4.68-4.89 (m, 1 H) 3.94 (dd, J=10.70, 8.62 Hz, 1 H) 3.62-3.86 (m, 2 H) 3.43 (t, J=7.15 Hz, 2 H) 3.18 (br. s., 1 H) 2.97 (s, 3 H) 2.84 (td, J=7.15, 1.96 Hz, 2 H) 1.47 (s, 9 H). 19F NMR (376 MHz, chloroform-d) δ ppm −112.79-−110.52 (m, 1 F) −114.51-−113.30 (m, 1 F). m/z (APCI+) for C13H22F2N2O5S 257.1 (M+H)+.

reactant | tert-butyl 4-amino-3,3-difluoropyrrolidine-1-carboxylate | 6.12 mmol, 1.36 g | NC1C(CN(C1)C(=O)OC(C)(C)C)(F)F | C9H16F2N2O2
reactant | 3-(methylsulfonyl)propanoic acid | 6.73 mmol, 1.02 g | CS(=O)(=O)CCC(=O)O | C4H8O4S
reactant | NMM | 12.2 mmol, 1.35 mL | CN1CCOCC1 | C5H11NO
reactant | HOBt | 9.2 mmol, 1.31 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC-HCl | 9.2 mmol, 1.85 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.4 M, 31 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3,3-difluoro-4-{[3-(methylsulfonyl)propanoyl]amino}pyrrolidine-1-carboxylate | 1.65 g, 76% yield | FC1(CN(CC1NC(CCS(=O)(=O)C)=O)C(=O)OC(C)(C)C)F | C13H22F2N2O5S
